US05773442
14.83 g of N-(tert-butoxycarbonyl)glycine was dissolved in 50 ml of tetrahydrofuran, and 13.73 g of 1,1'-carbonylbis-1 H-imidazole was gradually added thereto and stirred at room temperature for 3 hours. 10 g of p-aminobenzonitrile was added thereto and stirred for 3 hours. Then, the solvent was removed by distillation under a reduced pressure. Water was added to the resulting residue, and the crystals thus formed were taken out by filtration, washed with a small amount of ethanol and then dried under a reduced pressure. Thus was obtained 20.5 g of 2-(tert-butoxycarbonylamino)-N-(4-cyanophenyl)acetamide.

reactant | N-(tert-butoxycarbonyl)glycine | 14.83 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 1,1'-carbonylbis-1 H-imidazole | 13.73 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | p-aminobenzonitrile | 10 g | NC1=CC=C(C#N)C=C1 | C7H6N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(tert-butoxycarbonylamino)-N-(4-cyanophenyl)acetamide | 20.5 g | C(C)(C)(C)OC(=O)NCC(=O)NC1=CC=C(C=C1)C#N | C14H17N3O3
